US08431575B2
To a stirred solution of 1-cyclohexyl-2-(4-cyclohexyloxy-phenyl)-ethanone (1.17 mmol, 0.35 g) and triethylamine (1.17 mmol, 0.16 mL) in THF (1.0 mL) was added a solution of ethyl glyoxylate (50% in toluene, 5.83 mmol, 1.15 mL) and continued stirring for 12 h at room temperature. After removal of volatiles under reduced pressure, the crude product was purified on a 24 g SiO2 cartridge using an ethyl acetate/hexanes gradient to give 4-cyclohexyl-3-(4-cyclohexyloxy-phenyl)-2-hydroxy-4-oxo-butyric acid ethyl ester (0.28 g).

reactant | 1-cyclohexyl-2-(4-cyclohexyloxy-phenyl)-ethanone | 1.17 mmol, 0.35 g | C1(CCCCC1)C(CC1=CC=C(C=C1)OC1CCCCC1)=O | C20H28O2
reactant | triethylamine | 1.17 mmol, 0.16 mL | C(C)N(CC)CC | C6H15N
reactant | ethyl glyoxylate | 5.83 mmol, 1.15 mL | C(C=O)(=O)OCC | C4H6O3
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 4-cyclohexyl-3-(4-cyclohexyloxy-phenyl)-2-hydroxy-4-oxo-butyric acid ethyl ester | 0.28 g | C(C)OC(C(C(C(=O)C1CCCCC1)C1=CC=C(C=C1)OC1CCCCC1)O)=O | C24H34O5
